US07153855B2
To a solution of N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine (25 mg, 0.05 mmol) in dichloromethane (4 mL) was added succinic anhydride (6 mg, 0.6 mmol). The resultant solution was stirred overnight and then ether was added. The precipitated solids were recovered by filtration to give 4-[(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)amino]-4-oxobutanoic acid (31 mg, 99%) as a white solid. 1H NMR (CDCl3/CD3OD): δ 7.71 (m, 2 H), 7.47 (d, 2 H), 7.32 (m, 1 H), 6.97 (d, 2 H), 6.15 (d, 1 H), 6.04 (d, 1 H), 4.30 (m, 1 H), 3.88 (s, 3 H), 3.38–3.27 (m, 4 H), 2.62 (m, 2 H), 2.45 (m, 2 H), 2.10–2.00 (m, 2 H), 1.84–1.55 (m, 10 H); MS m/z 572 (M+1).

reactant | N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine | 0.05 mmol, 25 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCN)C2=CC=C(C=C2)OC | C27H33N7O
reactant | succinic anhydride | 0.6 mmol, 6 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-[(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)amino]-4-oxobutanoic acid | 31 mg, 99% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCNC(CCC(=O)O)=O)C2=CC=C(C=C2)OC | C31H37N7O4
